US06492403B1
Methyl 4-(1,1-dimethyl-1-stannaethyl)-5-methylthiothiophene-2-carboxylate (195 mg, 0.56 mmol) as prepared in previous step, and 2,6-dibromopyridine (398 mg, 1.7 mmol) were taken in anhydrous DMF (2 mL). To this mixture tetrakistriphenylphosphine-palladium (20 mg) was added and heated at 120° C. for 24 h. DMF was removed under vacuum and the residue was purified by preparative silica gel thin-layer chromatography to give 78 mg (41%) of methyl 4-(6-bromo(2-pyridyl))-5-methylthiothiophene-2-carboxylate as a solid. 1H-NMR (CDCl3; 300 MHz) δ2.60 (S, 3H), 3.78 (s, 3H), 7.19 (S, 1H), 7.47 (dd, J=1.09 and 7.67 Hz, 1H)), 7.58 (t, J=7.70, 1H), 7.65 (dd, J=1.12 and 7.43 Hz, 1H).

reactant | Methyl 4-(1,1-dimethyl-1-stannaethyl)-5-methylthiothiophene-2-carboxylate | 0.56 mmol, 195 mg | C[Sn](C)(C)C=1C=C(SC1C)C(=S)OC
reactant | 2,6-dibromopyridine | 1.7 mmol, 398 mg | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakistriphenylphosphine-palladium | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(6-bromo(2-pyridyl))-5-methylthiothiophene-2-carboxylate | 78 mg, 41% | BrC1=CC=CC(=N1)C=1C=C(SC1C)C(=S)OC | C12H10BrNOS2
